US05576313
Step 1: Preparation of N-t-butoxycarbonyl-4-amino-4-(2-methylbenzyl)piperidine
To a mixture of 4-(2-methylbenzyl) N-t-butoxycarbonyl isonipecotic acid (1.0 g, 3.0 mmol) in CH3CN (20 ml) add diphenyl phosphoryl azide (0.99 g, 3.6 mmol) and triethylamine (0.50 ml, 3.6 mmol). After stirring at 55° C. (oil bath temp.) concentrate the reaction in vacuo and partion the residue between EtOAc and saturated aqueous NaHCO3. The organic phase is washed with brine, dried (MgSO4), and concentrated in vacuo to afford the crude product.

reactant | 4-(2-methylbenzyl) N-t-butoxycarbonyl isonipecotic acid | 3.0 mmol, 1.0 g | CC1=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)C(=O)O)C=CC=C1 | C19H27NO4
reactant | diphenyl phosphoryl azide | 3.6 mmol, 0.99 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.6 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | N-t-butoxycarbonyl-4-amino-4-(2-methylbenzyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=C(C=CC=C1)C)N | C18H28N2O2
